
* Bristol32 External Sensor Node - SPICE Netlist
* Generated for circuit simulation

* Power supply
V1 VCC 0 3.3V

* ESP32 Heltec WiFi LoRa 32 V2 (simplified model)
XESP32 VCC GND GPIO13 GPIO21 GPIO22 LORA_NSS LORA_MOSI LORA_MISO LORA_SCK LORA_RST LORA_DIO0 ESP32_HELTEC
.model ESP32_HELTEC X()

* LoRa Module SX1276
XLoRa LORA_NSS LORA_MOSI LORA_MISO LORA_SCK LORA_RST LORA_DIO0 VCC GND ANTENNA SX1276
.model SX1276 X()

* mmWave Motion Sensor
XmmWave GPIO13 VCC GND MMWAVE_SENSOR
.model MMWAVE_SENSOR X()

* BME280 Environmental Sensor
XBME280 GPIO21 GPIO22 VCC GND BME280_TEMP BME280_HUM BME280_PRESS BME280
.model BME280 X()

* SSD1306 OLED Display
XOLED GPIO21 GPIO22 VCC GND SSD1306_OLED
.model SSD1306_OLED X()

* Antenna (simplified)
LANT ANTENNA 0 10nH
CANT ANTENNA 0 1pF

* Analysis
.tran 1ms 1s
.end
